US07012075B2
To N-(4-{4-[4-(tert-butoxycarbonyl)piperazin-1-yl]phenyl}-3-methylisoxazol-5-yl)leucine (415 mg, 0.879 mmol), PyBOP (505 mg, 0.97 mmol), aminoacetonitrile hydrochloride (179 mg, 1.93 mmol) in dry DMF (15 mL) under dry nitrogen was added triethylamine (0.44 mL, 3.1 mmol) dropwise and the reaction was stirred for 3 hours. Aqueous sat. NaHCO3 was added and the product extracted with Et2O (2×), dried over Na2SO4, concentrated in vacuo, and purified by flash chromatography over silica gel (EtOAc/Hex, 6/4) to afford N1-(cyanomethyl)-N2-(4-{4-[4-(tert-butoxycarbonyl)piperazin-1-yl]phenyl}-3-methylisoxazol-5-yl)leucinamide.

reactant | N-(4-{4-[4-(tert-butoxycarbonyl)piperazin-1-yl]phenyl}-3-methylisoxazol-5-yl)leucine | 0.879 mmol, 415 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)C=1C(=NOC1N[C@@H](CC(C)C)C(=O)O)C | C25H36N4O5
reactant | PyBOP | 0.97 mmol, 505 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | aminoacetonitrile hydrochloride | 1.93 mmol, 179 mg | Cl.NCC#N
reactant | triethylamine | 3.1 mmol, 0.44 mL | C(C)N(CC)CC | C6H15N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | N1-(cyanomethyl)-N2-(4-{4-[4-(tert-butoxycarbonyl)piperazin-1-yl]phenyl}-3-methylisoxazol-5-yl)leucinamide | C(#N)CNC([C@@H](NC1=C(C(=NO1)C)C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)CC(C)C)=O | C27H38N6O4
